US05623078
Acetic acid (58.8 ml, 933 mmol) and acetic anhydride (20.4 ml, 185 mmol) were added to cyclopropane-1,2,3-tricarboxylic acid (24.4 g, 140 mmol), followed by reacting the mixture while heating under reflux for 2 hours, concentrating the reaction solution into a half volume, filtering off deposited crystals, washing them with heptane and drying under reduced pressure, to obtain 2,4-dioxo-3-oxabicyclo[3.1.0]hexane-6-carboxylic acid (18.1 g, 116 mmol, 83%).

reactant | Acetic acid | 933 mmol, 58.8 ml | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 185 mmol, 20.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | cyclopropane-1,2,3-tricarboxylic acid | 140 mmol, 24.4 g | C1(C(C1C(=O)O)C(=O)O)C(=O)O | C6H6O6
product | 2,4-dioxo-3-oxabicyclo[3.1.0]hexane-6-carboxylic acid | 116 mmol, 18.1 g, 83% | O=C1C2C(C2C(O1)=O)C(=O)O | C6H4O5
